US09283229B2
Step 2: Synthesis of 3-nitro-4,5-dipropoxybenzaldehyde
To a solution of 3,4-dihydroxy-5-nitrobenzaldehyde (400 mg, 2.185 mmol) in DMF (5 mL) was added K2CO3 (603 mg, 4.37 mmol) and 1-bromopropane (0.5 mL, excess), and the reaction was stirred at 80° C. overnight. Ethyl acetate (100 mL) was added and was washed with 2N aqueous HCl solution (20 mL×1), brine (20 mL×3), dried over Na2SO4, filtered, concentrated. The residue was purified by column chromatography (192 mg, yield: 32.91%).

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 2.185 mmol, 400 mg | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | K2CO3 | 4.37 mmol, 603 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromopropane | 0.5 mL | BrCCC | C3H7Br
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-nitro-4,5-dipropoxybenzaldehyde | yield: 32.91% | [N+](=O)([O-])C=1C=C(C=O)C=C(C1OCCC)OCCC | C13H17NO5
